US06881736B1
(a) Ethyl (S)-3-(3-fluorophenyl)-4-[4-[2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)ethoxy]phenyl]butanoate
Diisopropyl azodicarboxylate (0.20 mL, 1.0 mmole) was added dropwise to a solution of ethyl (S)-3-(3-fluorophenyl)-4-(4-hydroxyphenyl)butanoate (250 mg, 0.83 mmole), 2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)-1-ethanol (178 mg, 1.0 mmole), and triphenylphosphine (262 mg, 1.0 mmole) in anhydrous THF (5 mL) at RT. After 18 hr the reaction was concentrated and the residue was flash chromatographed on silica gel (5:1 Et2O/hexanes) to afford impure title compound (236 mg, 61%): MS (ES) m/e 463 (M+H)+. This was used without further purification.

reactant | Diisopropyl azodicarboxylate | 1.0 mmole, 0.20 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | ethyl (S)-3-(3-fluorophenyl)-4-(4-hydroxyphenyl)butanoate | 0.83 mmole, 250 mg | FC=1C=C(C=CC1)[C@H](CC(=O)OCC)CC1=CC=C(C=C1)O | C18H19FO3
reactant | 2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)-1-ethanol | 1.0 mmole, 178 mg | N1=C(C=CC=2CCCNC12)CCO | C10H14N2O
reactant | triphenylphosphine | 1.0 mmole, 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Ethyl (S)-3-(3-fluorophenyl)-4-[4-[2-(5,6,7,8-tetrahydro-1,8-naphthyridin-2-yl)ethoxy]phenyl]butanoate | 236 mg, 61% | FC=1C=C(C=CC1)[C@H](CC(=O)OCC)CC1=CC=C(C=C1)OCCC1=NC=2NCCCC2C=C1 | C28H31FN2O3
